US07179801B2
To a suspension of a mixture of benzhydryl 7β-[(Z)-2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (1 g) and sodium iodide (199 mg) in N,N-dimethylformamide (3 ml) was added 4-tert-butoxycarbonylaminomethyl-1-ethyl-5-tritylaminopyrazole (1.17 g), and the mixture was stirred at room temperature for 47 hours. The reaction mixture was added to a mixture of ethyl acetate (30 ml) and water (20 ml). The organic layer was separated, washed with brine (15 ml), and dried over anhydrous magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated to about 5 ml under reduced pressure. The concentrate was poured into diisopropyl ether (150 ml), and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the resulting solid in methylene chloride (4.5 ml) were added anisole (1.5 ml) and trifluoroacetic acid (3 ml). The resulting solution was stirred at room temperature for 3 hours and poured into diisopropyl ether. The resulting precipitate was collected by filtration and dried in vacuo. The obtained powder was dissolved in a phosphate buffer (pH 7) and adjusted to about pH 6 with saturated aqueous sodium hydrogencarbonate solution. The solution containing the objective compound was purified by preparative HPLC utilizing ODS column. The eluate containing a desired product was concentrated in vacuo. The concentrate was adjusted to about pH 2 with concentrated hydrochloric acid and chromatographed on Diaion® HP-20 (Mitsubishi Chemical Corporation) eluting with 20% aqueous 2-propanol. The eluate was evaporated in vacuo and lyophilized to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-(3-amino-4-aminomethyl-2-ethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (155 mg) as an amorphous solid.

reactant | benzhydryl 7β-[(Z)-2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 1 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C38H43ClN6O9S2
reactant | sodium iodide | 199 mg | [I-].[Na+]
reactant | 4-tert-butoxycarbonylaminomethyl-1-ethyl-5-tritylaminopyrazole | 1.17 g | C(C)(C)(C)OC(=O)NCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC | C30H34N4O2
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-(3-amino-4-aminomethyl-2-ethyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 155 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)CN)N)CC)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C22H28N10O7S2
